US06235731B1
4) Synthesis of N-methyl-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 346.1 mg (0.77 mM) of N-methyl-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (4 ml) was added 2.0 ml (8.0 mM) of 4N-HCl/methanol and the mixture was stirred at room temperature for 20 minutes. The solvent was then distilled off under reduced pressure to provide the title compound.

reactant | N-methyl-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.77 mM, 346.1 mg | CN(C(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CC3CCN(CC3)CCCC3=CC=CC=C3 | C26H30N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-methyl-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.CN(C(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CC3CCN(CC3)CCCC3=CC=CC=C3 | InChI=1S/C26H30N4OS.2ClH/c1-28(26(31)23-17-22-18-27-24-10-5-11-25(32-23)30(22)24)19-21-12-15-29(16-13-21)14-6-9-20-7-3-2-4-8-20;;/h2-5,7-8,10-11,17-18,21H,6,9,12-16,19H2,1H3;2*1H
